US06028076
Bromine (0.2 ml) was added to a solution of 9-benzyl-2-methyladenine 60 mg (0.25 mmol) and NaOAc (0.22 g) in AcOH (5 ml), and the mixture was heated at 70° C. for 40 min. The solvent was evaporated under vacuum, and the residue was extracted by EtOAc. The resulting organic layer was evaporated under vacuum, and the residue was purified by column chromatography (CH2Cl2 :MeOH=50:1) to obtain 9-benzyl-8-bromo-2-methyladenine as an orange solid (60 mg). A mixture of the resulting 9-benzyl-8-bromo-2-methyladenine (60 mg) and conc.HCl (5 ml) was refluxed for 3 h. After cooling, aqueous NH3 was added to crystallize the product, and the desired compound was collected by filtration (10 mg, Yield: 16%).

reactant | Bromine | 0.2 ml | BrBr | Br2
reactant | 9-benzyl-2-methyladenine | 0.25 mmol, 60 mg | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)C | C13H13N5
reactant | NaOAc | 0.22 g | CC(=O)[O-].[Na+]
solvent | AcOH | 5 ml | CC(=O)O | C2H4O2
product | 9-benzyl-8-bromo-2-methyladenine | 60 mg, Yield: 16% | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1Br)N)C | C13H12BrN5
